US07253196B2
2-(Bicyclo[2.2.1]hept-2-ylamino)-1-thia-3-azaspiro[4.5]dec-2-en-4-one
Synthesis was performed from N-bicyclo[2.2.1]hept-2-ylthiourea and methyl 1-bromocyclohexanecarboxylate according to Method D.

reactant | N-bicyclo[2.2.1]hept-2-ylthiourea | C12C(CC(CC1)C2)NC(=S)N | C8H14N2S
reactant | methyl 1-bromocyclohexanecarboxylate | BrC1(CCCCC1)C(=O)OC | C8H13BrO2
product | 2-(Bicyclo[2.2.1]hept-2-ylamino)-1-thia-3-azaspiro[4.5]dec-2-en-4-one | C12C(CC(CC1)C2)NC=2SC1(C(N2)=O)CCCCC1 | C15H22N2OS
